US07838499B2
Preparation of 4-(5-bromo-2-chlorobenzyl)benzyl acetate (Intermediate AJ)
To a solution of 4-bromo-2-(4-(bromomethyl)benzyl)-1-chlorobenzene (intermediate AI) (15.5 g) in DMF (70 mL), NaOAc (16.27 g) was added. The solution was heated to 70° C. After 3 h, H2O (100 mL) and ethyl acetate (200 mL) were added. The organic layer was separated, washed with brine, and dried over Na2SO4. The solvent was evaporated under reduced pressure, and the product was purified by column chromatography to obtain pure intermediate AJ (8.86 g).

reactant | 4-bromo-2-(4-(bromomethyl)benzyl)-1-chlorobenzene | 15.5 g | BrC1=CC(=C(C=C1)Cl)CC1=CC=C(C=C1)CBr | C14H11Br2Cl
reactant | NaOAc | 16.27 g | CC(=O)[O-].[Na+]
reactant | H2O | 100 mL | O | H2O
reactant | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
solvent | DMF | 70 mL | CN(C)C=O | C3H7NO
product | 4-(5-bromo-2-chlorobenzyl)benzyl acetate | C(C)(=O)OCC1=CC=C(C=C1)CC1=C(C=CC(=C1)Br)Cl | C16H14BrClO2
